US07723336B2
p-Phenetidine (0.068 g, 0.5 mmol) and triethylamine (0.15 ml, 1.1 mmol) were added to a mixture of 8-bromo-6-chloro-3-methylimidazo[1,2-b]pyridazine and 6,8-dichloro-3-methylimidazo[1,2-b]pyridazine (0.011 g, 0.5 mmol) both from 1a in EtOH (10 mL). The mixture was heated to 90° C. and stirred for 30 hrs. The solution was then concentrated in vacuo to give crude 6-chloro-N-(4-ethoxyphenyl)-3-methylimidazo[1,2-b]pyridazin-8-amine.

reactant | p-Phenetidine | 0.5 mmol, 0.068 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 8-bromo-6-chloro-3-methylimidazo[1,2-b]pyridazine | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C | C7H5BrClN3
reactant | 6,8-dichloro-3-methylimidazo[1,2-b]pyridazine | 0.5 mmol, 0.011 g | ClC=1C=C(C=2N(N1)C(=CN2)C)Cl | C7H5Cl2N3
solvent | EtOH | 10 mL | CCO | C2H6O
product | 6-chloro-N-(4-ethoxyphenyl)-3-methylimidazo[1,2-b]pyridazin-8-amine | ClC=1C=C(C=2N(N1)C(=CN2)C)NC2=CC=C(C=C2)OCC | C15H15ClN4O
